US07834002B2
t-Butyl 4-(6-hydroxymethylpyridine-2-carbonyl)-piperazine-1-carboxylate (1.26 g) and diisopropylethylamine (1.0 g) were dissolved in 20 mL of methylene chloride, 0.1 mL of methanesulfonyl chloride was added dropwise into the above solution at ice temperature, and the mixture was stirred at room temperature overnight. After the solvent was removed under reduced pressure from the reaction mixture, the residue was purified by chromatography on silica gel (methylene chloride-ethanol=40:1) to give 1.07 g of t-butyl 4-(6-chloromethylpyridine-2-carbonyl)piperazine-1-carboxylate as a colorless oil.

reactant | t-Butyl 4-(6-hydroxymethylpyridine-2-carbonyl)-piperazine-1-carboxylate | 1.26 g | OCC1=CC=CC(=N1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H23N3O4
reactant | diisopropylethylamine | 1.0 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | t-butyl 4-(6-chloromethylpyridine-2-carbonyl)piperazine-1-carboxylate | 1.07 g | ClCC1=CC=CC(=N1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H22ClN3O3
